US06924374B2
cis-4-(3,4-dichloro-phenyl)-2,6-dimethyl-1-propyl-piperazine
Beginning with 4-bromo-1,2-dichlorobenzene and cis-2,6-dimethyl-1-propyl-piperazine, the title compound was recovered by the procedure described in Preparation 9: m.p. 225° C. (HCl), MS m/z (rel. intensity, 70 eV)) 301 (M+, 24), 271 (64), 112 (bp), 70 (47), 56 (53).

reactant | 4-bromo-1,2-dichlorobenzene | BrC1=CC(=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | cis-2,6-dimethyl-1-propyl-piperazine | C[C@@H]1N([C@@H](CNC1)C)CCC | C9H20N2
reactant | HCl | Cl | ClH
product | cis-4-(3,4-dichloro-phenyl)-2,6-dimethyl-1-propyl-piperazine | ClC=1C=C(C=CC1Cl)N1C[C@@H](N([C@@H](C1)C)CCC)C | C15H22Cl2N2
